US04207327
4-Amino-5-chloro-2-methoxy-N-(1,2-diethyl-4-pyrazolidinyl)benzamide.
To 75 ml. of thionyl chloride was added 12 g. (0.05 mole) of 4-acetamido-5-chloro 2-methoxy-benzoic acid and the stirred suspension refluxed one hour. The resulting solution was concentrated and 100 ml. of chloroform added to the residue which was concentrated to remove traces of thionyl chloride. The residue was dissolved in 100 ml. of chloroform and the solution added at a rapid drop to 7 g. (0.05 mole) of 4-amino-1,2-diethylpyrazolidine in 100 ml. of chloroform while stirring and cooling to 20°-25° C. with an ice bath. After 30 minutes the chloroform solution was extracted two times with 100 ml. of 3 N hydrochloric acid and the chloroform solution retained. The acid extract was boiled 10 minutes, cooled with ice, made basic with concentrated sodium hydroxide while cooling and extracted with chloroform. The chloroform was dried (sodium sulfate), concentrated and the residue crystallized from isopropyl ether-isooctane to give 3 g. of material which melted at 116°-118° C. The retained chloroform solution was extracted with dilute sodium hydroxide and concentrated. The residue was dissolved in 3 N hydrochloric acid and extracted with isopropyl ether. The acid solution was refluxed for 10 minutes, cooled with ice bath, made basic with sodium hydroxide while cooling and extracted with chloroform. The chloroform was dried (sodium sulfate) and concentrated. The residue was crystallized three times from isopropyl ether to give 0.7 g. of material which melted at 117°-119° C. A mixture melting point of both materials gave no depression of the melting point. The combined yield was 3.7 g. (23%).

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-acetamido-5-chloro 2-methoxy-benzoic acid | 0.05 mole | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1Cl)OC | C10H10ClNO4
reactant | 4-amino-1,2-diethylpyrazolidine | 0.05 mole | NC1CN(N(C1)CC)CC | C7H17N3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Amino-5-chloro-2-methoxy-N-(1,2-diethyl-4-pyrazolidinyl)benzamide | NC1=CC(=C(C(=O)NC2CN(N(C2)CC)CC)C=C1Cl)OC | C15H23ClN4O2
